US09371320B2
C) 4-methoxy-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate
To a solution of 4-methoxy-1-(tetrahydrofuran-3-yl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one (250 mg) and pyridine (0.344 mL) in acetonitrile (25 mL) was added trifluoromethanesulfonic anhydride (0.360 mL), and the mixture was stirred at 0° C. for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (259 mg).

reactant | 4-methoxy-1-(tetrahydrofuran-3-yl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one | 250 mg | COC1=NC=CC2=C1C(NN2C2COCC2)=O | C11H13N3O3
reactant | pyridine | 0.344 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.360 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-methoxy-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate | 259 mg | FC(S(=O)(=O)OC1=NN(C2=C1C(=NC=C2)OC)C2COCC2)(F)F | C12H12F3N3O5S
